US07067594B2
Butadiene-Isoprene-Isobutylene Terpolymer
A reactor is charged with 6.34 parts isoprene, 255.8 parts isobutylene, 164.2 parts butadiene and 1000 parts by volume heptane. The mixture is allowed to reflux, 6.3° C. Over 2 hours, 2.9 parts AlCl3, 30.6 parts isoprene, 1188.4 parts isobutylene and 24.3 parts butadiene are added to the reactor maintaining the reflux at 6.3° C. The reaction mixture is drained into 100 parts methanol. After the bulk of the unreacted monomers has boiled off (overnight), 150 parts water are added to the crude reaction product. The mixture is stirred and then shaken in a separatory funnel. The aqueous layer is removed then the organic layer is washed twice more with 150 parts water and finally with 100 parts saturated aqueous NaCl solution. The organic phase is dried with MgSO4 and pressure filtered. Solvents are removed on a rotary evaporator. The yield of product is 1185.6 parts. The product has GPC {overscore (M)}n=3504 and {overscore (M)}w=14956. By 1H NMR the product contains 2.14% butadiene and 1.01% isoprene.

reactant | isoprene | C=CC(C)=C | C5H8
reactant | isobutylene | CC(C)=C | C4H8
reactant | butadiene | C=CC=C | C4H6
reactant | AlCl3 | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | water | O | H2O
solvent | methanol | CO | CH4O
solvent | heptane | CCCCCCC | C7H16
product | Butadiene Isoprene Isobutylene | C=CC=C.C=CC(C)=C.CC(C)=C | InChI=1S/C5H8.C4H8.C4H6/c1-4-5(2)3;1-4(2)3;1-3-4-2/h4H,1-2H2,3H3;1H2,2-3H3;3-4H,1-2H2
